US05015738
1,2-Dihydro-8-methylbenzo[b]pyrrolo[3,2,1-jk][1,2,4]triazolo[4,3-d][1,4]benzodiazepine
1,2-Dihydrobenzo[b]pyrrolo[3,2,1-jk][1,4]benzodiazepin6-thione (4.5 g), acetic hydrazide (4 g) and n-butanol (200 ml) were combined and refluxed overnight. The reaction mixture was concentrated under reduced pressure and the residue was purified by high performance liquid chromatography (2% methanol/dichloromethane) to yield 3.2 g (65%) of product. Recrystallization from ethanol gave the analytical sample, mp 237°-238° C.

reactant | 1,2-Dihydrobenzo[b]pyrrolo[3,2,1-jk][1,4]benzodiazepin6-thione | 4.5 g | C1CC2=CC=CC=3C(NC4=C(N1C32)C=CC=C4)=S | C15H12N2S
reactant | acetic hydrazide | 4 g | C(C)(=O)NN | C2H6N2O
reactant | n-butanol | 200 ml | C(CCC)O | C4H10O
product | 1,2-Dihydro-8-methylbenzo[b]pyrrolo[3,2,1-jk][1,2,4]triazolo[4,3-d][1,4]benzodiazepine | 3.2 g, 65% | CC=1C=CC2=C(N3C4=C(C=5N2C=NN5)CCC=C4C=C3)C1 | C17H14N4
